US05496843
4) Methyl 5-aminomethyl-2-nitrophenylacetate hydrochloride
A solution of diethyl 2-nitro-5-phthalimidomethylphenylmalonate in a mixture of concentrated hydrochloric acid (150 mL) and 1,4-dioxane (150 mL) was heated at 120° C. for 24 h. The solvents was removed in vacuo and the residual solid was dissolved in methanol (100 mL). To the solution was added thionyl chloride (11.8 g) at 0° C. The mixture was stirred for 2 h at 40° C. and the solvent and the excess reagent were removed in vacuo. The residue was washed with diethyl ether and dried to give 6.5 g of the title compound (quant): 1H NMR (CD3OD) δ8.18 (d, 1H, J=8.6 Hz), 7.63 (dd, 1H, J=8.6, 1.6 Hz), 7.56 (d, 1H, J=1.6 Hz), 4.23 (s, 2H), 4.09 (s, 2H), 3.69 (s, 3H).

reactant | diethyl 2-nitro-5-phthalimidomethylphenylmalonate | [N+](=O)([O-])C1=C(C=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C(C(=O)OCC)C(=O)OCC | C22H20N2O8
reactant | hydrochloric acid | 150 mL | Cl | ClH
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | Methyl 5-aminomethyl-2-nitrophenylacetate hydrochloride | 6.5 g | Cl.NCC=1C=CC(=C(C1)CC(=O)OC)[N+](=O)[O-] | InChI=1S/C10H12N2O4.ClH/c1-16-10(13)5-8-4-7(6-11)2-3-9(8)12(14)15;/h2-4H,5-6,11H2,1H3;1H
